US07183445B2
To a cooled solution of tributyl-[1-(4-benzyloxy-phenyl)-vinyl]-stannane (26.2 g, 52.6 mmol) in DMF (180 mL) at 0° C. was added CuCl (8.6 g, 87.7 mmol) and CuCl2 (1.00 g, 8.13 mmol), which was then stirred at 25° C. for 2 h. The reaction mixture was then diluted with ethyl acetate (500 mL) and washed with brine (3×300 mL). The reaction mixture was then dried over MgSO4 and purified by SiO2 (20% ethyl acetate/hexane) to yield 2,3-di(4-benzyloxy-phenyl)-1,3-butadiene.

reactant | tributyl-[1-(4-benzyloxy-phenyl)-vinyl]-stannane | 52.6 mmol, 26.2 g | C(CCC)[Sn](C(=C)C1=CC=C(C=C1)OCC1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuCl | 87.7 mmol, 8.6 g | Cl[Cu]
product | 2,3-di(4-benzyloxy-phenyl)-1,3-butadiene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C)C(=C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H26O2
